US04933355
Ethyl 2-(3-benzylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 4.7 g of ethyl 2-aminothiazol-4-ylglyoxylate, 4.5 g of benzyl isocyanate and 30 ml of dimethylformamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 4.7 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | benzyl isocyanate | 4.5 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-benzylureido)thiazol-4-ylglyoxylate | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C15H15N3O4S
